2137-04-30 07:39:00 Physician Resident Progress Note
Chief Complaint: 42 year old man with history of chondrosarcoma with
   relapse in gluteal muscle presenting with fever, increasing buttock
   pain found to have GPC bacteremia and tachycardia.
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2137-4-29**] 12:50 PM
 BLOOD CULTURED - At [**2137-4-29**] 04:50 PM
 FEVER - 101.7
F - [**2137-4-30**] 06:00 AM
   - GPC in [**4-12**] Bcx, lactate 1.7->1.6
   - Tachycardic, getting IVF as appears quite dry
   - HD stable, no complaints
   - Hct down 10 points in less than 24 hours (has rec'd around 7 L IVF),
   though all lines down (platelets [**1-9**]'d since 10pm last night, WBC down
   7 points) ->dc'd ranitidine which can cause pancytopenia, no other
   offending meds noted; ?adriamycin (nadir in [**10-22**] days and patient is
   s/p two cycles)
   - Measured thigh for increased girth (was 24 inches); will continue to
   monitor
   - Spiked T again around MN, not recultured
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2137-4-29**] 04:22 PM
   Vancomycin - [**2137-4-30**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-4-29**] 04:22 PM
   Heparin Sodium (Prophylaxis) - [**2137-4-29**] 04:22 PM
   Ranitidine (Prophylaxis) - [**2137-4-29**] 07:05 PM
   Hydromorphone (Dilaudid) - [**2137-4-30**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-4-30**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.7
C (101.7
   HR: 126 (118 - 137) bpm
   BP: 113/72(80) {106/63(74) - 131/81(92)} mmHg
   RR: 17 (14 - 23) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 6 Inch
             Total In:
                                                                  9,750 mL
                                                                    600 mL
   PO:
                                                                  1,500 mL
                                                                    400 mL
   TF:
   IVF:
                                                                  1,250 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  5,875 mL
                                                                  1,600 mL
   Urine:
                                                                  5,875 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,875 mL
                                                                 -1,000 mL
   Respiratory support
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present), thigh
   diameter 24 inches
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, well-healed scar in
   RLQ
   Ext: Large well-healed incision along lateral surface of L leg,
   protruding area on lateral upper thigh from tumor growth
   Labs / Radiology
   120 K/uL
   10.0 g/dL
   88 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.5 mEq/L
   8 mg/dL
   109 mEq/L
   139 mEq/L
   28.1 %
   3.9 K/uL
        [image002.jpg]
                             [**2137-4-29**]  04:57 PM
                             [**2137-4-30**]  03:00 AM
   WBC
   5.0
   3.9
   Hct
   25.9
   28.1
   Plt
   112
   120
   Cr
   0.7
   Glucose
   88
   Other labs: PT / PTT / INR:15.8/42.8/1.4, Differential-Neuts:90.0 %,
   Band:0.0 %, Lymph:5.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L,
   Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:1.9 mg/dL
   Imaging:
   CT Pelvis: IMPRESSION: Markedly abnormal appearance of the left gluteal
   musculature, similar in size and extent to PET CT of [**2137-4-12**].
   Replacement of the musculature with abnormal low attenuation is most
   consistent with local recurrence of chondrosarcoma, possibly with
   tumoral necrosis secondary to chemo radiation treatment. Mass is noted
   to enter the pelvis along the course of the piriformis and obturator
   musculature, where it surrounds the sciatic nerve and inferior gluteal
   artery.
    Sacral plexus MRI may be helpful for evaluating perineural
   involvement, but may be slightly limited by artifact from the nearby
   hip prosthesis.
   Hip 2 views: IMPRESSION: No significant change in appearance of left
   hip bipolar arthroplasty.
   Microbiology: Bcx [**4-28**]: [**4-12**] GPC
   Bcx [**4-29**]: NGTD
   Assessment and Plan
   42 year old man with history of chondrosarcoma with relapse in gluteal
   muscle presenting with fever, increasing buttock pain found to be
   bacteremic and tachycardic.
   # Bacteremia: [**4-12**] positive bcx with GPC most likely staph or strep
   species either from skin, port, or deeper in tumor given increase in
   pain.  CT unremarkable for abscess. Given non-neutropenic status would
   hold cefepime for now.  Will continue to monitor as all lines down
   yesterday on CBC, now stabilized. Lactate has been within normal
   limits.  Has been spiking fevers over the course of the night,
   otherwise hemodynamically stable. Tachycardic as below.
   - If persistent + BCx will pursue TTE
   - Culture with spikes off port and peripheral q24 hours, if no spikes
   will send surveillance cultures.
   - Vancomycin and ceftriaxone IV empirically for now pending speciation
   and sensitivities
   - Ortho recs, saw patient yesterday, no note in chart
   - Onc recs regarding plan for adriamycin/XRT today
   # Tachycardia: Has been in sinus tachycardia in setting of infection
   and decreased PO intake as well as pain.  HR has increased in the
   setting of fever spikes and decreased with pain control.
   - Monitor on tele
   - Continue to give IVF prn if patient is taking minimal PO, though
   appears to have adequate intake now
   - Tylenol prn fevers
   - Pain control with outpatient regimen of oxycontin, oxycodone and
   dilaudid for breakthrough.  Will start patient on fentanyl patch today
   after tallying his opioid requirements over the last 24 hours for more
   continuous pain control.
   # Chondrosarcoma: Per records patient due to for additional cycle of
   infusional chemotherapy with concurrent XRT today.
   - Likely will need to await resolution of current infection
   - Will continue to monitor thigh diameter as patient with increased
   pain, concern for bleed into leg
   - Will discuss timing of therapy with oncology as above
   # Pancytopenia: Likely from chemotherapy induced marrow suppression.
   Normocytic with no RDW expansion to suggest hemolysis. No evidence of
   acute blood loss.  [**Month (only) 60**] also be a dilutional component as patient has
   rec'd around 7 L of IVF.
   - Dc'd ranitidine as it can cause marrow suppression
   - Guaiac stools x3
   - Will discuss with heme/onc
   ICU Care
   Nutrition:
   PO
   Glycemic Control:  Adequate
   Lines:
   Indwelling Port (PortaCath) - [**2137-4-29**] 12:50 PM
   20 Gauge - [**2137-4-30**] 12:21 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Likely call out to OMED today

2137-04-30 10:16:00 Physician Attending Progress Note
Chief Complaint: GPC sepsis, relapsed chondrosarcoma
   HPI:
   42 yo M w/relapsed chondrosarcoma currently getting adriamycin
   (wkly)/XRT (daily) a/w fever, worsening gluteal pain- early septic
   picture w/elevated lactate, tachycardia.  Blood cxs [**4-12**] from [**4-28**] w/GPC
   in prs and chains (likely strep)- source likely L gluteal mass (tumor
   necrosis), no abscess on pelvic CT.  Treating w/vancomycin/ceftriaxone.
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2137-4-29**] 12:50 PM
 BLOOD CULTURED - At [**2137-4-29**] 04:50 PM
 FEVER - 101.7
F - [**2137-4-30**] 06:00 AM
   Continued tachycardia despite ~7L IVF since admission (4L+ past 24hrs),
   BP has been stable.
   Continues to spike fevers
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2137-4-29**] 04:22 PM
   Vancomycin - [**2137-4-30**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-4-29**] 04:22 PM
   Heparin Sodium (Prophylaxis) - [**2137-4-29**] 04:22 PM
   Ranitidine (Prophylaxis) - [**2137-4-29**] 07:05 PM
   Hydromorphone (Dilaudid) - [**2137-4-30**] 03:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: feels well except for numbness in LLE and sensation
   of swelling. No pain or resp difficulty.
   Flowsheet Data as of  [**2137-4-30**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37
C (98.6
   HR: 121 (118 - 137) bpm
   BP: 116/77(86) {106/63(74) - 131/81(92)} mmHg
   RR: 19 (14 - 23) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 6 Inch
             Total In:
                                                                  9,750 mL
                                                                    600 mL
   PO:
                                                                  1,500 mL
                                                                    400 mL
   TF:
   IVF:
                                                                  1,250 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  5,875 mL
                                                                  1,600 mL
   Urine:
                                                                  5,875 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,875 mL
                                                                 -1,000 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   120 K/uL
   88 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.5 mEq/L
   8 mg/dL
   109 mEq/L
   139 mEq/L
   28.1 %
   3.9 K/uL
        [image002.jpg]
                             [**2137-4-29**]  04:57 PM
                             [**2137-4-30**]  03:00 AM
   WBC
   5.0
   3.9
   Hct
   25.9
   28.1
   Plt
   112
   120
   Cr
   0.7
   Glucose
   88
   Other labs: PT / PTT / INR:15.8/42.8/1.4, Differential-Neuts:90.0 %,
   Band:0.0 %, Lymph:5.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L,
   Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:1.9 mg/dL
   Imaging: Pelvis CT - abnl appearance of L gluteal musculature c/w local
   recurrence chondrosarcoma, no abscess formation
   Microbiology: [**4-28**] - [**4-12**] bld cxs w/GPC
   [**4-29**] - bld cxs NGTD
   Assessment and Plan
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   #GPC Bacteremia - source likely L gluteal mass (tumor necrosis, no
   abscess on CT), tachycardic though BP stable
   -f/u cxs, cont empiric vanco/ceftriaxone for now pending results of cxs
   #Pancytopenia
   -likely dilutional + [**2-9**] chemo
   #Tachycardia - ST, multifactorial- pain, fevers, decreased POs
   -attempt better pain control w/transition to fentanyl patch w/cont prns
   for breakthrough
   #Chondrosarcoma - due for XRT today, t/b w/onc
   #PPx - boots, OOB, PPI
   #Dispo - ready for transfer back to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2137-4-29**] 12:50 PM
   20 Gauge - [**2137-4-30**] 12:21 AM
   Code status: Full code

2137-05-01 07:14:00 Physician Resident Progress Note
Chief Complaint: 42 year old man with history of chondrosarcoma with
   relapse in gluteal muscle presenting with fever, increasing buttock
   pain found to have GPC bacteremia and tachycardia
   24 Hour Events:
 RADIATION THERAPY - At [**2137-4-30**] 03:19 PM
   - Bcx growing Group A strep (pyogenes); sensitivities still pending.
   Official ID consult placed to help with possibility of port infection
   vs prosthesis infection, length of therapy, etc.  Offical consult today
   but recommended changing to CTX 2 gm IV Q24 (endocarditis dose), and if
   patient becomes HD unstable consider adding clinda for TSS
   - ECHO done, no vegetations
   - Changed pain regimen to Oxycontin 120 TID (to account for Dilaudid 12
   mg IV + oxycodone 15 x1) with oxycodone for breakthrough
   - Repeated surveillance blood cultures
   - Unable to call out to OMED as patient continued to have tachycardia
   into 140s with ambulation; improved to 110s at night with increased
   oxycontin dose and 500 cc NS bolus
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2137-4-29**] 04:22 PM
   Vancomycin - [**2137-4-30**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-5-1**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.7
C (99.8
   HR: 118 (110 - 140) bpm
   BP: 104/63(72) {98/59(70) - 130/84(94)} mmHg
   RR: 17 (9 - 23) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 6 Inch
                  Total In:
                                                                  2,900 mL
                  PO:
                                                                  2,200 mL
                  TF:
   IVF:
                                                                    700 mL
   Blood products:
   Total out:
                                                                  4,850 mL
                                                                    700 mL
   Urine:
                                                                  4,850 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,950 mL
                                                                   -700 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, well-healed scar in
   RLQ
   Ext: Large well-healed incision along lateral surface of L leg,
   protruding area on lateral upper thigh from tumor growth, erythema
   along area of xrt yesterday with recession of erythema from outline
   drawn earlier this morning
   Labs / Radiology
   112 K/uL
   9.6 g/dL
   84 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.6 mEq/L
   6 mg/dL
   105 mEq/L
   138 mEq/L
   25.9 %
   3.8 K/uL
        [image002.jpg]
                             [**2137-4-29**]  04:57 PM
                             [**2137-4-30**]  03:00 AM
                             [**2137-5-1**]  04:46 AM
   WBC
   5.0
   3.9
   3.8
   Hct
   25.9
   28.1
   25.9
   Plt
   112
   120
   112
   Cr
   0.7
   0.7
   Glucose
   88
   84
   Other labs: PT / PTT / INR:12.9/33.1/1.1, ALT / AST:53/56, Alk Phos / T
   Bili:26/0.7, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:572 mg/dL, Lactic Acid:1.6 mmol/L,
   LDH:232 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Imaging: ECHO [**4-30**]: IMPRESSION: No obvious valvular vegetations
   identified, but suboptimal image quality due to presence of marked
   tachycardia. Preserved biventricular global systolic dunction.
   Microbiology: [**4-28**] Bcx x4: Beta Group A Strep
   [**4-29**] Bcx x2: NGTD
   [**4-30**] Bcx x4: NGTD
   [**4-29**] Ucx: No growth
   Assessment and Plan
   42 year old man with history of chondrosarcoma with relapse in gluteal
   muscle presenting with fever, increasing buttock pain found to be
   bacteremic and tachycardic.
   # Bacteremia: [**4-12**] positive bcx with Strep Pyogenes. Potential sources
   include port, abscess within leg, or hardware.  CT unremarkable for
   abscess. ID consulted yesterday, will officially consult today.  They
   recommended changing to ctx 2gm IV q24 (endocarditis dosing) and adding
   clinda if patient becomes HD unstable.  All subsequent bcx from port
   and peripheral have been no growth to date. WBC is stable.  Lactate has
   been within normal limits.  T max 101.7 yesterday am, low grade around
   100.5 during the day.  Patient did spike to 101.2 during rounds this
   morning.  Otherwise hemodynamically stable. Tachycardic as below.
   - TTE without any signs of vegetations or valvular abnormalities, will
   discuss potential for TEE with ID today and await their recs
   - Continue to CIS, if no spikes will send surveillance cultures off
   port and peripheral
   - Continue ceftriaxone IV as above
   - Ortho recs: concern over potential abscess at the site of tumor, but
   no urgent surgical intervention at this time. Recommended continuing
   with current treatment plan
   - Onc recs: holding on chemotherapy but continuing with XRT
   - ID recs today regarding pulling portacath
   # Tachycardia: Has been in sinus tachycardia in setting of infection
   and decreased PO intake as well as pain.  HR has increased in the
   setting of fever spikes and decreased with pain control.
   - Monitor on tele
   - Continue to give IVF prn if patient is taking minimal PO, though
   appears to have adequate intake now. Will give 1L now given persistent
   fevers and likely inadequate PO fluid intake
   - Tylenol prn fevers
   - Pain control with oxycontin, increased to 120mg q8H based on opioid
   requirements over the course of the day, oxycodone and dilaudid for
   breakthrough.  Held off on fentanyl patch for now per rad onc.
   # Chondrosarcoma: Patient is currently receiving infusional adriamycin
   and XRT weekly.  This week, patient is scheduled for third cycle.
   Getting XRT and holding on chemo as above
   - Will continue to monitor thigh diameter as patient with increased
   pain, concern for bleed into leg
   - Continue to follow with onc, ortho and radonc
   # Pancytopenia: Likely from chemotherapy induced marrow suppression.
   Normocytic with no RDW expansion to suggest hemolysis. No evidence of
   acute blood loss.  [**Month (only) 60**] also be a dilutional component as patient has
   rec'd around 7 L of IVF.
   - Dc'd ranitidine as it can cause marrow suppression
   - Guaiac stools x3
   - Continue to discuss with heme/onc
   ICU Care
   Nutrition:
   PO
   Glycemic Control:  Comments: Adequate
   Lines:
   Indwelling Port (PortaCath) - [**2137-4-29**] 12:50 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Consider call out to OMED
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with her
   note above, including assessment and plan.  PMH, SH, FH and ROS are
   unchanged from admission except where noted above and below.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2010**] [**Last Name (NamePattern1) **], MD
   on:[**2137-5-1**] 17:15 ------